US07473698B2
TERT-BUTYL 4-{3-[(6-BROMOHEXANOYL)AMINO]PHENYL}-1-PIPERIDINE CARBOXYLATE
A 25-mL RB-flask, charged with tert-butyl-4-[3-(amino)phenyl]-1-piperidinecarboxylate (2.00 mmol, 0.553 g), 6-bromohexanoyl chloride (0.427 g, 2.00 mmol, 1.0 eq.), triethylamine (0.404 g, 4.00 mmol) and THF (8.00 mL) was stirred at room temperature for 4 h. The reaction mixture was diluted with chloroform (50 mL) and washed with water (100 mL), brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by chromatography (silica gel, hexanes/EtOAc 10:1) to yield the desired product (0.921 g, 95.8%). 1H NMR (400 MHz, CDCl3) δ 7.47 (s, 1H), 7.28-7.22 (m, 2H), 7.11 (s, 1H), 6.5 (d, 1H, J=7.0 Hz), 3.45-3.39 (m, 2H), 2.85-2.70 (m, 2H), 2.68-2.58 (m, 1H), 2.37 (t, 2H, J=7.4 Hz), 1.96-1.71 (m, 7H), 1.68-1.50 (m, 5H), 1.48 (s, 9H); ESMS m/e: 355.4, 476.6.

reactant | tert-butyl-4-[3-(amino)phenyl]-1-piperidinecarboxylate | 2.00 mmol, 0.553 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=CC=C1)N | C16H24N2O2
reactant | 6-bromohexanoyl chloride | 2.00 mmol, 0.427 g, 1.0 eq. | BrCCCCCC(=O)Cl | C6H10BrClO
reactant | triethylamine | 4.00 mmol, 0.404 g | C(C)N(CC)CC | C6H15N
reactant | THF | 8.00 mL | C1CCOC1 | C4H8O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | TERT-BUTYL 4-{3-[(6-BROMOHEXANOYL)AMINO]PHENYL}-1-PIPERIDINE CARBOXYLATE | 0.921 g, 95.8% | BrCCCCCC(=O)NC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H33BrN2O3
